US07183306B2
A mixture of 2-{4-[1-(4-aminophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethyl acetate 165.6 mg and 2,5-dimethoxytetrahydrofuran 112 mg in AcOH 3 ml was stirred at 50° C. for 3 hours. 2,5-Dimethoxytetrahydrofuran 0.22 ml was added and the mixture was stirred at 50° C. for 2 hours. The mixture was partitioned between ethyl acetate and H2O. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer silica gel chromatography developed by AcOEt/n-hexane=20%. The separated silica gel was extracted with 10% MeOH/CHCl3 and the solvent was evaporated in vacuo to give 2-{4-[1-[4-(1H-pyrrol-1-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethyl acetate 136.1 mg as an oil.

reactant | 2-{4-[1-(4-aminophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethyl acetate | 165.6 mg | C(C)(=O)OCCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)N)C(F)(F)F | C20H18F3N3O2
reactant | 2,5-dimethoxytetrahydrofuran | 112 mg | COC1OC(CC1)OC | C6H12O3
reactant | 2,5-Dimethoxytetrahydrofuran | 0.22 ml | COC1OC(CC1)OC | C6H12O3
solvent | AcOH | 3 ml | CC(=O)O | C2H4O2
product | 2-{4-[1-[4-(1H-pyrrol-1-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethyl acetate | 136.1 mg | C(C)(=O)OCCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)N1C=CC=C1)C(F)(F)F | C24H20F3N3O2
